US07786132B2
(iii) Thieno[2,3-c]pyridine
N-(2,2-Dimethoxyethyl)-4-methyl-N-(thiophen-2-ylmethyl)benzenesulfonamide (7 g, 19 mmol) was dissolved in dioxane (10 mL) and treated with concentrated HCl (10 mL). The mixture for heated to reflux for 12 h. The mixture was allowed to cool down to room temperature, diluted with water (20 mL) and brought to pH 7 with 2 N sodium hydroxide. The mixture was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was dried with sodium sulfate, concentrated and purified by flash chromatography using a gradient of 10 to 60% ethyl acetate in hexanes to obtain a tan solid. Yield=1 g. MS (M+H)+ 136.

reactant | N-(2,2-Dimethoxyethyl)-4-methyl-N-(thiophen-2-ylmethyl)benzenesulfonamide | 19 mmol, 7 g | COC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CC=1SC=CC1)OC | C16H21NO4S2
reactant | HCl | 10 mL | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | Thieno[2,3-c]pyridine | S1C=CC=2C1=CN=CC2 | C7H5NS
